US04315009
A mixture of 2-guanidino-4-(3-phthalimidomethylphenyl)thiazole hydrochloride (0.7 g.) in water (30 ml.) and ethanol (30 ml.) and sufficient aqueous sodium hydroxide to give pH 12 was heated under reflux for 30 minutes. The pH was adjusted to approximately 3 with concentrated hydrochloric acid and the mixture heated under reflux for a further 30 minutes. The pH was then adjusted to 12 with dilute sodium hydroxide solution and the mixture extracted with ethyl acetate (50 ml.). This extract was evaporated to dryness to give 2-guanidino-4-(3-aminomethylphenyl)thiazole (0.15 g.), m.p. 155°-160° C. (decomp.).

reactant | 2-guanidino-4-(3-phthalimidomethylphenyl)thiazole hydrochloride | 0.7 g | Cl.N(C(=N)N)C=1SC=C(N1)C1=CC(=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-guanidino-4-(3-aminomethylphenyl)thiazole | 0.15 g | N(C(=N)N)C=1SC=C(N1)C1=CC(=CC=C1)CN | C11H13N5S
